US09302984B2
Methyl 4-(4-bromophenylsulfonamido)cis-cyclohexanecarboxylate (ABD781b)
Using a method analogous to Method A with 4-bromophenylsulfonyl chloride and methyl cis-4-aminocyclohexanecarboxylate, the title compound was obtained as a pale brown solid.

reactant | 4-bromophenylsulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | methyl cis-4-aminocyclohexanecarboxylate | N[C@H]1CC[C@H](CC1)C(=O)OC | C8H15NO2
product | Methyl 4-(4-bromophenylsulfonamido)cis-cyclohexanecarboxylate | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H]1CC[C@H](CC1)C(=O)OC | C14H18BrNO4S
